US08383644B2
(S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(3R,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester (94 mg) was reacted with 2-acetylamino-4-methyl thiazole-5-sulfonyl chloride (64 mg) according to General Procedure E to obtain (S)-2-({(3R,8S)-7-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester (16 mg). This was hydrolyzed according to General Procedure B to give the title compound (11 mg). LCMS: (m/z) 955. 1H NMR (400 MHz, DMSO-d6): 7.80-7.75 (m, 4H), 7.71 (d, 1H), 7.66-7.64 (m, 3H), 7.54 (d, 2H), 7.45 (d, 1H), 7.32 (d, 2H), 7.10 (d, 1H), 7.04-7.02 (m, 2H), 6.72 (s, 1H), 6.63 (s, 1H), 5.57-5.56 (m, 2H), 5.53-5.52 (m, 1H), 5.14 (s, 2H) 5.02-4.99 (m, 1H), 4.55-4.53 (m, 1H), 4.35-4.29 (m, 1H), 4.27-4.20 (m, 3H), 3.94-3.89 (m, 1H), 3.74-3.70 (m, 2H), 2.95-2.92 (m, 1H), 2.48 (s, 3H).

reactant | (S)-3-(4′-Cyano-biphenyl-4-yl)-2-({(3R,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-propionic acid methyl ester | 94 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)=O | C42H35Cl2N3O6
reactant | 2-acetylamino-4-methyl thiazole-5-sulfonyl chloride | 64 mg | C(C)(=O)NC=1SC(=C(N1)C)S(=O)(=O)Cl | C6H7ClN2O3S2
product | (S)-2-({(3R,8S)-7-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-propionic acid methyl ester | 16 mg | COC([C@H](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)NC(C)=O)C)=O | C48H41Cl2N5O9S2
